US09227951B2
To the crude (R)-3-(1-(benzofuran-2-carboxamido)ethyl)isoxazole-5-carboxylic acid in a microwave vial was added HATU (0.0544 g, 0.143 mmol), TEA (0.087 g, 0.858 mmol) in DMF (1.0 mL), followed by O-(tetrahydropyran-2-yl)hydroxylamine (0.0335 g, 0.286 mmol) in DMF (1.0 mL). The mixture was shaken at rt for 16 h, then the solvent was evaporated. To the residue was added THF (2.0 mL) and hydrochloric acid (0.0715 mL, 4.0 M in 1,4-dioxane). After shaking at rt for 1 h, the solvent was evaporated. To the residue was added DMSO (1.2 mL). After filtration, the solution was purified by prep-HPLC to give ((R)-3-(1-(benzofuran-2-carboxamido)ethyl)-N-hydroxyisoxazole-5-carboxamide. LC-MS: (FA) ES+ 347.

reactant | (R)-3-(1-(benzofuran-2-carboxamido)ethyl)isoxazole-5-carboxylic acid | O1C(=CC2=C1C=CC=C2)C(=O)N[C@H](C)C2=NOC(=C2)C(=O)O | C15H12N2O5
reactant | HATU | 0.143 mmol, 0.0544 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | O-(tetrahydropyran-2-yl)hydroxylamine | 0.286 mmol, 0.0335 g | O1C(CCCC1)ON | C5H11NO2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (R)-3-(1-(benzofuran-2-carboxamido)ethyl)-N-hydroxyisoxazole-5-carboxamide | O1C(=CC2=C1C=CC=C2)C(=O)N[C@H](C)C2=NOC(=C2)C(=O)NO | C15H13N3O5
